US07282512B2
To a solution of 1.6 g (7.27 mmol) of {1-[2-(benzyloxy)ethyl]cyclobutyl}methanol in 16 mL of dichloromethane was added 1.20 g (7.99 mmol) of t-butyldimethylsilyl chloride and 0.98 g (14.54 mmol) of imidazole and the contents stirred for 16 h. Saturated ammonium chloride was added and the layers separated. The organic layer was dried with magnesium sulfate and concentrated under vacuum. To the crude silyl alcohol was added 20 mL of methanol and 0.24 g of 10 wt % palladium on carbon. The reaction was stirred under an atmosphere of hydrogen for 16 h. The contents were filtered and the filtrate was concentrated under vacuum to afford 1.71 g (97%) of 2-[1-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclobutyl]ethanol as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 3.57 (s, 2H), 3.55 (t, J=6 Hz, 2H), 1.87-1.59 (m, 8H), 0.87 (2, 9H), 0.05 (s, 6H).

reactant | {1-[2-(benzyloxy)ethyl]cyclobutyl}methanol | 7.27 mmol, 1.6 g | C(C1=CC=CC=C1)OCCC1(CCC1)CO | C14H20O2
reactant | t-butyldimethylsilyl chloride | 7.99 mmol, 1.20 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 14.54 mmol, 0.98 g | N1C=NC=C1 | C3H4N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 16 mL | ClCCl | CH2Cl2
product | 2-[1-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclobutyl]ethanol | 1.71 g, 97% | [Si](C)(C)(C(C)(C)C)OCC1(CCC1)CCO | C13H28O2Si
